US07947683B2
3-(3-chlorophenyl)-4-methyl-5-(4-penten-1-yl)-4H-1,2,4-triazole
The title compound was prepared in analogy to Preparation 11 in 0.16 g yield starting from 3-chlorobenzhydrazide (0.52 g) and N,N′-dimethyl-5-hexenimidamide hydrochloride (0.48 g). MS (m/z): 262 [MH]+.

reactant | 3-chlorobenzhydrazide | 0.52 g | ClC=1C=C(C(=O)NN)C=CC1 | C7H7ClN2O
reactant | N,N′-dimethyl-5-hexenimidamide hydrochloride | 0.48 g | Cl.CNC(CCCC=C)=NC
product | 3-(3-chlorophenyl)-4-methyl-5-(4-penten-1-yl)-4H-1,2,4-triazole | ClC=1C=C(C=CC1)C1=NN=C(N1C)CCCC=C | C14H16ClN3
